**********************************************************************************************************
* Verilog A model - PMTJ
***********************************************************************************************************
simulator lang=spectre
global 0

include "model/mtj_subcircuit.scs"


parameters 
+ i_dc=0e-6
+ i_pulse_ap2p=-100e-6
+ w_pulse=50e-9
+ input_delay=-2e-9
+ temp_celsius=26.85
+ do_thermal=0
+ do_theta_windowing=0
+ do_fake_thermal=0
+ sim_pivrel=0.1
+ sim_rtol=1e-8
+ sim_atol=1e-10
+ maxstep=1e-18
+ method=traponly

ITRAN0 0 e0 isource type=pwl wave=[0 i_dc 1n -i_pulse_ap2p 11n -i_pulse_ap2p 12n i_dc 22n i_dc 23n i_pulse_ap2p 33n i_pulse_ap2p 34n i_dc 44n i_dc 45n -i_pulse_ap2p 55n -i_pulse_ap2p 56n i_dc]

// ITRAN0 0 e0 isource type=pwl wave=[0 i_dc 2n -i_pulse_ap2p 52n -i_pulse_ap2p 54n i_dc 104n i_dc 106n i_pulse_ap2p 156n i_pulse_ap2p 158n i_dc 208n i_dc 210n -i_pulse_ap2p 260n -i_pulse_ap2p 262n i_dc]

mtj_ap2p (e0 0 mz 0 0 0) mtj_subcircuit
	+ p_do_thermal=do_thermal
	+ p_do_theta_windowing=do_theta_windowing
	+ p_do_fake_thermal=do_fake_thermal
	+ p_atol=sim_atol

highVoltageOptions options highvoltage=yes bin_relref=yes

simulatorOptions options \
    temp=(temp_celsius) \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 \
    reltol=sim_rtol \


finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile

primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=all subcktprobelvl=3 saveahdlvars=all exportfile="verilog-pmtj/exported_test.data"
tran_tt tran stop=(50n) write="verilog-pmtj/spectre.ic" writefinal="verilog-pmtj/spectre.fc" \
    annotate=status maxiters=5 \
    method=method